US09034900B2
4-[3-[(4-methoxyphenyl)methoxy]-5-methylsulfonylphenyl]-2-methylisoquinolin-1-one
A mixture of 1-bromo-3[(4-methoxyphenyl)methoxy]-5-methylsulfonylbenzene (103 mg, 0.28 mmol), 2-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)isoquinolin-1-one (79 mg, 0.28 mmol), Pd(dppf)Cl2 (20 mg) and K3PO4 (153 mg, 0.7 mmol) in dioxane (1.9 mL) and water (100 uL) was purged with nitrogen for 10 min, capped, and heated to 75° C. for 15 h. After the mixture was filtered through a short bed of celite, the filtrate was concentrated in vacuo and purified by silica gel column chromatography using a gradient of EtOAc (5 to 100%) in DCM to afford the title compound (100 mg, 80%) as a tan solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 3.30 (s, 3H) 3.58 (s, 3H) 3.77 (s, 3H) 5.14-5.28 (m, 2H) 6.88-7.04 (m, 2H) 7.32-7.80 (m, 9H) 8.29-8.43 (m, 1H). LCMS (M+H)+=450.

reactant | 1-bromo-3[(4-methoxyphenyl)methoxy]-5-methylsulfonylbenzene | 0.28 mmol, 103 mg | BrC1=CC(=CC(=C1)S(=O)(=O)C)OCC1=CC=C(C=C1)OC | C15H15BrO4S
reactant | 2-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)isoquinolin-1-one | 0.28 mmol, 79 mg | CN1C(C2=CC=CC=C2C(=C1)B1OC(C(O1)(C)C)(C)C)=O | C16H20BNO3
reactant | K3PO4 | 0.7 mmol, 153 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | dioxane | 1.9 mL | O1CCOCC1 | C4H8O2
solvent | water | 100 uL | O | H2O
catalyst | Pd(dppf)Cl2 | 20 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 4-[3-[(4-methoxyphenyl)methoxy]-5-methylsulfonylphenyl]-2-methylisoquinolin-1-one | 100 mg, 80% | COC1=CC=C(C=C1)COC=1C=C(C=C(C1)S(=O)(=O)C)C1=CN(C(C2=CC=CC=C12)=O)C | C25H23NO5S
